US07326732B2
(ii) {3-[(5-Phenyl-thiophene-2-carbonyl)-amino]-phenyl}-acetic acid ethyl ester
{3-[(5-Bromo-thiophene-2-carbonyl)-amino]-phenyl}-acetic acid ethyl ester (220 mg, 0.60 mmol) was coupled to phenylboronic acid using Method E except that the reaction mixture was heated at 80° C. for 25 min under microwave conditions. The crude product was purified by column chromatography using 33% EtOAc in heptane to give the title compound.

reactant | {3-[(5-Bromo-thiophene-2-carbonyl)-amino]-phenyl}-acetic acid ethyl ester | 0.60 mmol, 220 mg | C(C)OC(CC1=CC(=CC=C1)NC(=O)C=1SC(=CC1)Br)=O | C15H14BrNO3S
reactant | phenylboronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | {3-[(5-Phenyl-thiophene-2-carbonyl)-amino]-phenyl}-acetic acid ethyl ester | C(C)OC(CC1=CC(=CC=C1)NC(=O)C=1SC(=CC1)C1=CC=CC=C1)=O | C21H19NO3S
